US04147528
To a stirred solution of 12.9 g (0.10 mole) of ethyl 3-aminocrotonate in 50 ml of anhydrous dimethylformamide is added during 10 min. 15.36 g (0.10 mole) of p-chlorophenyl isocyanate in 50 ml of the same solvent. A mild exotherm (5° C.) results. After stirring for 3 hours, the reaction solution is slowly added with stirring to 1.5 l of deionized water. The white solid product is collected by vacuum filtration, washed with water and air dried at 45°-55° to give 23 g of ethyl 3-amino-2-(4-chlorophenylcarbamoyl)crotonate. Recrystallization of a 2.0 g. portion of this material from 15 ml of ethanol gives 1.5 g of pure ethyl 3-amino-2-(4-chlorophenylcarbamoyl)crotonate.

reactant | ethyl 3-aminocrotonate | 0.10 mole, 12.9 g | N\C(=C/C(=O)OCC)\C | C6H11NO2
reactant | p-chlorophenyl isocyanate | 0.10 mole, 15.36 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
reactant | water | 1.5 l | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | ethyl 3-amino-2-(4-chlorophenylcarbamoyl)crotonate | 23 g | N\C(=C(/C(=O)OCC)\C(NC1=CC=C(C=C1)Cl)=O)\C | C13H15ClN2O3
